US06500985B2
(3S)-3-amino-1-chloro-4-phenyl-2-butanone hydrochloride (2.0 mg) was dissolved in water (34 ml), and a toluene solution (50 ml) of methyl chloroformate (0.858 ml) was added thereto. An aqueous solution (15 ml) of sodium hydrogencarbonate (1.44 g) was further added dropwise thereto while being stirred. The mixture was reacted at room temperature for 1 hour while being stirred, and then extracted twice with toluene and twice with ethyl acetate. The organic layers were combined, and the solvents were distilled off under reduced pressure. To the residue were added n-hexane and 2-propanol. The resulting solution was heated at 50° C. to form a uniform solution. This solution was then cooled to 10° C., and crystals precipitated were collected by filtration. The crystals were washed with cold 2-propanol (6 ml), and then dried to obtain (3S)-3-methoxycarbonylamino-1-chloro-4-phenyl-2-butanone (1.70 g) in a yield of 78%.

reactant | (3S)-3-amino-1-chloro-4-phenyl-2-butanone hydrochloride | 2.0 mg | Cl.N[C@H](C(CCl)=O)CC1=CC=CC=C1
reactant | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
reactant | methyl chloroformate | 0.858 ml | ClC(=O)OC | C2H3ClO2
reactant | sodium hydrogencarbonate | 15 ml, 1.44 g | C(O)([O-])=O.[Na+]
solvent | water | 34 ml | O | H2O
product | (3S)-3-methoxycarbonylamino-1-chloro-4-phenyl-2-butanone | 1.70 g, yield of 78% | COC(=O)N[C@H](C(CCl)=O)CC1=CC=CC=C1 | C12H14ClNO3
